US07011838B2
Using 0.22 g of 2-(4-(trifluoromethyl)benzyl)malononitrile, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil), and 0.33 g of 1-bromo-3-chloro-2-methylpropane, and according to the process described in the Production Example 1, there was obtained 0.19 g of 2-(3-chloro-2-methylpropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (86)).

reactant | 2-(4-(trifluoromethyl)benzyl)malononitrile | 0.22 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 1-bromo-3-chloro-2-methylpropane | 0.33 g | BrCC(CCl)C | C4H8BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(3-chloro-2-methylpropyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.19 g, Yield: 30% | ClCC(CC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F)C | C15H14ClF3N2
